US06884868B1
To a solution of 4-(cis-2,6-dimethylmorpholin-4-yl)benzoic acid ethyl ester (0.55 g) in a mixed solvent of methanol (3 ml) and tetrahydrofuran (6 ml) was added hydrazine monohydrate (1.6 ml). The solution was refluxed for 20 hours, during which period additional hydrazine monohydrate (1.6 ml) was added to the mixture. After cooling to ambient temperature, the reaction mixture was added to a mixture of water and ethyl acetate. The organic layer was washed with sodium chloride solution. The organic layer was taken and dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was concentrated under reduced pressure to give 4-(cis-2,6-dimethylmorpholin-4-yl)benzoic acid hydrazide (489.7 mg).

reactant | 4-(cis-2,6-dimethylmorpholin-4-yl)benzoic acid ethyl ester | 0.55 g | C(C)OC(C1=CC=C(C=C1)N1C[C@H](O[C@H](C1)C)C)=O | C15H21NO3
reactant | methanol | 3 ml | CO | CH4O
reactant | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
reactant | hydrazine monohydrate | 1.6 ml | O.NN
reactant | hydrazine monohydrate | 1.6 ml | O.NN
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 4-(cis-2,6-dimethylmorpholin-4-yl)benzoic acid hydrazide | 489.7 mg | C[C@@H]1CN(C[C@@H](O1)C)C1=CC=C(C(=O)NN)C=C1 | C13H19N3O2
